US07060827B2
In a manner similar to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, N4-benzyloxy-2-chloro-5-ethoxycarbonyl-4-pyrimidineamine and 3-hydroxyaniline were reacted to yield N4-benzyloxy-5-ethoxycarbonyl-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine. LCMS: ret. time: 24.28 min.; purity: 88%; MS (m/e): 381 (MH+).

reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H15FN4O3
reactant | N4-benzyloxy-2-chloro-5-ethoxycarbonyl-4-pyrimidineamine | C(C1=CC=CC=C1)ONC1=NC(=NC=C1C(=O)OCC)Cl | C14H14ClN3O3
reactant | 3-hydroxyaniline | OC=1C=C(N)C=CC1 | C6H7NO
product | N4-benzyloxy-5-ethoxycarbonyl-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C(C1=CC=CC=C1)ONC1=NC(=NC=C1C(=O)OCC)NC1=CC(=CC=C1)O | C20H20N4O4
